US04684653
A solution of diethyl N-(4-[2-(2-acetamido-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethenyl]benzoyl)-L-glutamate in 30 mL of trifluoroacetic acid was hydrogenated at 55 psi of hydrogen in the presence of 1.0 g of 5% Pd/C at room temperature for 14 hours. The catalyst was removed by filtration, the filtrate evaporated under reduced pressure, and the residual solid partitioned between 100 mL of chloroform and 50 ml of 2N aqueous sodium carbonate. The organic phase was separated, dried over anhydrous magnesium sulfate, and the solvent removed by evaporation to give a gum which was chromatographed on silica gel. Elution with chloroform:methanol (97:3) gave 0.25 g (56%) of diethyl N-(4-[2-(2-acetamido-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoyl)-L-glutamate; mp 215°-217° C.; NMR (CDCl3) delta 1.25, 1.35 (2t, 6H, J=6 Hz), 2.1-2.5 (m, 4H), 2.55 (s, 3H), 3.1 (s, 4H), 4.15, 4.25 (2q, 4H, J=6 Hz), 4.6-4.96 (m, 1H), 7.05 (s, 1H), 7.25, 7.75 (AB q, 4H, J= 9 Hz), 8.35 (d, 1H, J=3 Hz), 8.77 (d, 1H, J=3 Hz); IR (Nujol) 3200, 3150, 1725, 1675, 1630, 1605 cm-1. Anal.: Calc'd for C27H31N5O7 : C, 60.32; H, 5.81; N, 13.03. Found: C, 59.98; H, 6.03; N, 12.92).

reactant | diethyl N-(4-[2-(2-acetamido-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethenyl]benzoyl)-L-glutamate | C(C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)O | C27H29N5O7
reactant | hydrogen | [H][H] | H2
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | diethyl N-(4-[2-(2-acetamido-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoyl)-L-glutamate | 0.25 g, 56% | C(C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)CCC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)O | C27H31N5O7
